### PR TITLE
Universal property of smash products

### PR DESCRIPTION
**Pull request by maybemabeline**
I added some functions for computing with the universal property of pushouts of pointed types and a function that computes the identifications created by the map from the product to the smash product. 
I also started working on one of the sides of the universal property, but the last hole ended up as a very complicated dependent identification that I'm not sure how to handle. If anyone wants to look at it, you are welcome to do so :)

### CODE REVIEW

File: src/structured-types/commuting-squares-of-pointed-maps.lagda.md [hunk 1]
```diff
@@ -35,12 +37,24 @@ between the pointedness preservation proofs.
...
+
+  coherence-square-maps-coherence-square-pointed-maps :
+    coherence-square-pointed-maps →
+    coherence-square-maps
+      ( map-pointed-map top)
+      ( map-pointed-map left)
+      ( map-pointed-map right)
+      ( map-pointed-map bottom)
+  coherence-square-maps-coherence-square-pointed-maps =
+    ( htpy-pointed-htpy (bottom ∘∗ left) (right ∘∗ top))
```
Comment (EgbertRijke) [inline src/structured-types/commuting-squares-of-pointed-maps.lagda.md:59]: This can do without the outer parentheses

File: src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md [hunk 2]
```diff
@@ -114,3 +114,44 @@ module _
...
+  where
+
+  compute-inl-cogap-Pointed-Type :
+    ( x : type-Pointed-Type A) →
+      map-cogap-Pointed-Type
+        ( f)
+        ( g)
+        ( c)
+        ( map-pointed-map (inl-pushout-Pointed-Type f g) x) ＝
+      horizontal-map-cocone-Pointed-Type f g c x
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:135]: The indentation level was deeper than necessary

```suggestion
    ( x : type-Pointed-Type A) →
    map-cogap-Pointed-Type
      ( f)
      ( g)
      ( c)
      ( map-pointed-map (inl-pushout-Pointed-Type f g) x) ＝
    horizontal-map-cocone-Pointed-Type f g c x
```

File: src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md [hunk 3]
```diff
@@ -114,3 +114,44 @@ module _
...
+      ( x)
+
+  compute-inr-cogap-Pointed-Type :
+    ( y : type-Pointed-Type B) →
+      map-cogap-Pointed-Type
+        ( f)
+        ( g)
+        ( c)
+        ( map-pointed-map (inr-pushout-Pointed-Type f g) y) ＝
+      vertical-map-cocone-Pointed-Type f g c y
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:150]:
```suggestion
    map-cogap-Pointed-Type
      ( f)
      ( g)
      ( c)
      ( map-pointed-map (inr-pushout-Pointed-Type f g) y) ＝
    vertical-map-cocone-Pointed-Type f g c y
```

File: src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md [hunk 4]
```diff
@@ -114,3 +114,44 @@ module _
...
+  compute-inr-cogap-Pointed-Type y =
+    compute-inr-cogap
+      ( map-pointed-map f)
+      ( map-pointed-map g)
+      ( cocone-type-cocone-Pointed-Type f g c)
+      ( y)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:156]: In such situations, you don't need to delare the variable

```suggestion
  compute-inr-cogap-Pointed-Type =
    compute-inr-cogap
      ( map-pointed-map f)
      ( map-pointed-map g)
      ( cocone-type-cocone-Pointed-Type f g c)
```

**Comment by EgbertRijke** [comment]
Good work so far! I'd have to write out what you're trying to do, in order to help you, because it's hard to see just like that from a github pull request:) Maybe I'll come up with something over the weekend, if you haven't figured it out by then.

**Comment by maybemabeline** [comment]
In my latest commit I added some accessors for the first and second projections of equalities in Sigma types. Suggestions for better names for these functions are welcome and please let me know if I missed that these were already implemented somewhere else.

**Comment by maybemabeline** [comment]
There's some work that still needs to be done with the universal property of the smash product but this pull request is already getting pretty big so I would prefer if this gets merged now and I add the rest in separate pull requests later.

File: src/foundation/homotopies.lagda.md [hunk 5]
```diff
@@ -214,6 +214,14 @@ module _
     map-compute-dependent-identification-eq-value f g p q r
   pr2 (compute-dependent-identification-eq-value p q r) =
     is-equiv-map-compute-dependent-identification-eq-value p q r
+
+  inv-map-compute-dependent-identification-eq-value :
+    {x y : A} (p : x ＝ y) (q : eq-value f g x) (r : eq-value f g y) →
+    (tr (eq-value f g) p q ＝ r) →
+    (((apd f p) ∙ r) ＝ ((ap (tr B p) q) ∙ (apd g p)))
```
Comment (fredrik-bakke) [inline src/foundation/homotopies.lagda.md:221]: It is preferred if the expressions aren't overly parenthesized. The following should parse much better:
```suggestion
    tr (eq-value f g) p q ＝ r →
    apd f p ∙ r ＝ ap (tr B p) q ∙ apd g p
```

File: src/foundation/homotopies.lagda.md [hunk 6]
```diff
@@ -241,6 +249,13 @@ module _
     map-compute-dependent-identification-eq-value-function f g p q q'
   pr2 (compute-dependent-identification-eq-value-function p q q') =
     is-equiv-map-compute-dependent-identification-eq-value-function p q q'
+
+  inv-map-compute-dependent-identification-eq-value-function :
+    {a0 a1 : A} (p : a0 ＝ a1) (q : f a0 ＝ g a0) (q' : f a1 ＝ g a1) →
+    ((tr (eq-value f g) p q) ＝ q') → (((ap f p) ∙ q') ＝ (q ∙ (ap g p)))
```
Comment (fredrik-bakke) [inline src/foundation/homotopies.lagda.md:255]: same here

File: src/structured-types/commuting-squares-of-pointed-maps.lagda.md [hunk 7]
```diff
@@ -35,12 +37,24 @@ between the pointedness preservation proofs.
...
-  (top : C →∗ B) (left : C →∗ A) (right : B →∗ X) (bottom : A →∗ X) →
-  UU (l3 ⊔ l4)
-coherence-square-pointed-maps top left right bottom =
-  (bottom ∘∗ left) ~∗ (right ∘∗ top)
+  (top : C →∗ B) (left : C →∗ A) (right : B →∗ X) (bottom : A →∗ X)
+  where
+
+  coherence-square-pointed-maps : UU (l3 ⊔ l4)
+  coherence-square-pointed-maps =
+    (bottom ∘∗ left) ~∗ (right ∘∗ top)
```
Comment (fredrik-bakke) [inline src/structured-types/commuting-squares-of-pointed-maps.lagda.md:49]: Also here, due to the new precedence rules :)
```suggestion
    bottom ∘∗ left ~∗ right ∘∗ top
```

File: src/structured-types/pointed-unit-type.lagda.md [hunk 8]
```diff
@@ -33,12 +34,28 @@ pr2 unit-Pointed-Type = star
...
-pr2 (inclusion-point-Pointed-Type X) = refl
+module _
+  {l : Level} (X : Pointed-Type l)
+  where
+
+  terminal-pointed-map : X →∗ unit-Pointed-Type
+  pr1 terminal-pointed-map _ = star
+  pr2 terminal-pointed-map = refl
+
+  map-terminal-pointed-map : ( type-Pointed-Type X) → unit
```
Comment (fredrik-bakke) [inline src/structured-types/pointed-unit-type.lagda.md:45]:
```suggestion
  map-terminal-pointed-map : type-Pointed-Type X → unit
```

File: src/structured-types/pointed-unit-type.lagda.md [hunk 9]
```diff
@@ -33,12 +34,28 @@ pr2 unit-Pointed-Type = star
...
+    unit-Pointed-Type →∗ X
+  pr1 inclusion-point-Pointed-Type = point (point-Pointed-Type X)
+  pr2 inclusion-point-Pointed-Type = refl
+
+  is-initial-unit-Pointed-Type :
+    ( f : unit-Pointed-Type →∗ X) → f ~∗ inclusion-point-Pointed-Type
+  pr1 (is-initial-unit-Pointed-Type f) _ =
+    preserves-point-pointed-map f
+  pr2 (is-initial-unit-Pointed-Type f) =
+    inv right-unit
```
Comment (fredrik-bakke) [inline src/structured-types/pointed-unit-type.lagda.md:60]:
```suggestion
  pr1 (is-initial-unit-Pointed-Type f) _ = preserves-point-pointed-map f
  pr2 (is-initial-unit-Pointed-Type f) = inv right-unit
```

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md [hunk 10]
```diff
@@ -120,7 +141,229 @@ module _
...
+          ( inclusion-point-Pointed-Type (A ∧∗ B))
+          ( is-initial-unit-Pointed-Type
+            ( A ∧∗ B)
+            ( inr-pushout-Pointed-Type
+              ( pointed-map-prod-wedge-Pointed-Type A B)
+              ( terminal-pointed-map (A ∨∗ B)))))
+        ( map-terminal-pointed-map (A ∨∗ B)))
+      ( x)) ∙
+    ( preserves-point-pointed-map
+      ( inclusion-point-Pointed-Type (A ∧∗ B)))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: Removes a parenthesis and puts some things on the same line
```suggestion
  eq-map-smash-prod-wedge-Pointed-Type :
    (x : type-Pointed-Type (A ∨∗ B)) →
    map-smash-prod-wedge-Pointed-Type x ＝ point-Pointed-Type (A ∧∗ B)
  eq-map-smash-prod-wedge-Pointed-Type x =
    ( glue-pushout
      ( map-prod-wedge-Pointed-Type A B)
      ( map-pointed-map {A = A ∨∗ B} {B = unit-Pointed-Type}
        ( terminal-pointed-map (A ∨∗ B)))
      ( x)) ∙
    ( htpy-right-whisk
      ( htpy-pointed-htpy
        ( inr-pushout-Pointed-Type
          ( pointed-map-prod-wedge-Pointed-Type A B)
          ( terminal-pointed-map (A ∨∗ B)))
        ( inclusion-point-Pointed-Type (A ∧∗ B))
        ( is-initial-unit-Pointed-Type
          ( A ∧∗ B)
          ( inr-pushout-Pointed-Type
            ( pointed-map-prod-wedge-Pointed-Type A B)
            ( terminal-pointed-map (A ∨∗ B)))))
        ( map-terminal-pointed-map (A ∨∗ B))
      ( x)) ∙
    ( preserves-point-pointed-map (inclusion-point-Pointed-Type (A ∧∗ B)))
```

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md [hunk 11]
```diff
@@ -120,7 +141,229 @@ module _
...
+        ( map-inl-wedge-Pointed-Type A B (point-Pointed-Type A)))
+      ( ap-const
+        ( point-Pointed-Type (A ∧∗ B))
+        ( glue-wedge-Pointed-Type A B))) ∙
+    ( right-unit)
+```
+
+### The map from the pointed product to the smash product identifies elements
+
+of the form (x, b) and (a, y).
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:219]:
```suggestion
of the form `(x, b)` and `(a, y)`, where `b` and `a` are the base points of `B`
and `A` respectively.
```

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md [hunk 12]
```diff
@@ -120,7 +141,229 @@ module _
...
+            ( compute-glue-cogap
+              ( map-pointed-map
+                ( inclusion-point-Pointed-Type A))
+              ( map-pointed-map
+                ( inclusion-point-Pointed-Type B))
+              ( cocone-type-cocone-Pointed-Type
+                ( inclusion-point-Pointed-Type A)
+                ( inclusion-point-Pointed-Type B)
+                ( cocone-prod-wedge-Pointed-Type A B))
+              ( point-Pointed-Type unit-Pointed-Type))))))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:323]: There is some fishy parenthisation going on in this proof. Here's a rule that should be followed: When a path concatenation is part of a multiline expression, each argument should be parenthesized, so, for instance, in the line that reads `( p ∙` (end of line), the `p` should be parenthesized.

Moreover when the association of the proof isn't relevant, I/we prefer to omit the parentheses. So for instance if you are proving `x = y` by `p ∙ (q ∙ r)`, and you don't care about how that proof is constructed later, I would omit the parentheses.

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:323]: There's also some indentation issues, but I'm sure you will spot those when you fix the first problem. You can spot it by how you have written

```agda
  ( p ∙
  ( ...
```

What helps me spot such issues quickly is VSCode's rainbow parentheses setting. It will display the two parentheses with different colors, so I know they should be at different indentation levels. I can recommend looking for a similar feature in your preferred editor!

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:323]: Rainbow parentheses also help with all sorts of different issues that arise frequently when writing agda-unimath code anyway, like spotting overparenthization.

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md [hunk 13]
```diff
@@ -120,7 +141,229 @@ module _
...
+  eq-htpy-pointed-Π
+    ( map-universal-property-smash-prod-Pointed-Type A B C
+      ( f)
+      ( point-Pointed-Type A))
+    ( constant-pointed-map B C)
+    ( ( λ y →
+        ( ap
+          ( map-pointed-map f)
+          ( inv
+            ( glue-smash-prod-Pointed-Type A B (point-Pointed-Type A) y)) ∙
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:357]:
```suggestion
          ( inv (glue-smash-prod-Pointed-Type A B (point-Pointed-Type A) y)) ∙
```

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md [hunk 14]
```diff
@@ -75,11 +103,30 @@ indexed wedge sum, `⋁∗`, is the
...
+glue-wedge-Pointed-Type :
+  {l1 l2 : Level} (A : Pointed-Type l1) (B : Pointed-Type l2) →
+  map-inl-wedge-Pointed-Type A B (point-Pointed-Type A) ＝
+  map-inr-wedge-Pointed-Type A B (point-Pointed-Type B)
+glue-wedge-Pointed-Type A B =
+  glue-pushout
+    ( map-pointed-map
+      ( inclusion-point-Pointed-Type A))
+    ( map-pointed-map
+      ( inclusion-point-Pointed-Type B))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:118]:
```suggestion
    ( map-pointed-map (inclusion-point-Pointed-Type A))
    ( map-pointed-map (inclusion-point-Pointed-Type B))
```

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 10 above)
Comment (VojtechStep) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: It also unindents the `x : ` in the arguments; we don't have a good (or any whatsoever) guideline for this formatting, but I'm always writing a space between the opening paranthesis and the name of the argument for symmetry with function application.

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md [hunk 15]
```diff
@@ -75,11 +103,30 @@ indexed wedge sum, `⋁∗`, is the
...
+    ( point-Pointed-Type unit-Pointed-Type)
+```
+
 ### The inclusion of the wedge sum `A ∨∗ B` into the pointed product `A ×∗ B`
 
 There is a canonical inclusion of the wedge sum into the pointed product that is
 defined by the cogap map induced by the canonical inclusions `A → A ×∗ B ← B`.
 
+Elements of the form (x, b) and (a, y) lie in the image of the inclusion of the
+wedge sum into the pointed product.
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:128]:
```suggestion
Elements of the form `(x, b)` and `(a, y)`, where `b` and `a` are basepoints,
lie in the image of the inclusion of the wedge sum into the pointed product.
```

You can also consider introducing a special notation temporarily, if you feel that helps the flow. Something like:

```suggestion
Elements of the form `(x, *)` and `(*, y)` lie in the image of the inclusion of
the wedge sum into the pointed product.
```

File: src/foundation-core/equality-dependent-pair-types.lagda.md [hunk 16]
```diff
@@ -105,6 +105,14 @@ module _
...
   η-pair : (t : Σ A B) → (pair (pr1 t) (pr2 t)) ＝ t
   η-pair t = eq-pair-Σ refl refl
+
+  eq-base-Σ : {s t : Σ A B} → (s ＝ t) → (pr1 s ＝ pr1 t)
+  eq-base-Σ p = pr1 (pair-eq-Σ p)
+
+  dependent-eq-Σ :
+    {s t : Σ A B} → (p : s ＝ t) →
+    dependent-identification B (eq-base-Σ p) (pr2 s) (pr2 t)
+  dependent-eq-Σ p = pr2 (pair-eq-Σ p)
```
Comment (fredrik-bakke) [inline src/foundation-core/equality-dependent-pair-types.lagda.md:115]: I don't have good names for these off the top of my head, so I'll sit on it them for a little while. I usually just write `ap pr1` and `ap pr2`.

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 10 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: True. I usually prefer to not have that space, but we should really get around to formulating a more precise convention.

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: Jonathan would agree with your suggestion btw, and if our convention were to be to always have spaces after parentheses on new lines, then that would be easy to implement an autoformatter for (that he wrote).

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: Egbert, Jonathan, and I had a discussion about this in the past, and landed on that we disagree on whether this should be the rule.

File: src/foundation/homotopies.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/foundation/homotopies.lagda.md:255]:
```suggestion
    tr (eq-value f g) p q ＝ q' → ap f p ∙ q' ＝ q ∙ ap g p
```

File: src/foundation/homotopies.lagda.md [hunk 17]
```diff
@@ -241,6 +249,13 @@ module _
     map-compute-dependent-identification-eq-value-function f g p q q'
   pr2 (compute-dependent-identification-eq-value-function p q q') =
     is-equiv-map-compute-dependent-identification-eq-value-function p q q'
+
+  inv-map-compute-dependent-identification-eq-value-function :
+    {a0 a1 : A} (p : a0 ＝ a1) (q : f a0 ＝ g a0) (q' : f a1 ＝ g a1) →
```
Comment (fredrik-bakke) [inline src/foundation/homotopies.lagda.md:254]: We (almost) always prefer to use single-letter variable names over enumeration. Enumeration is not very readable and introduces unnecessary cognitive load when reading a definition. The only exception is when the enumeration is part of a specific scheme that help elucidate the structure of the statement. See for instance the section on coherences of the unit law in `foundation.path-algebra`.

```suggestion
    {x y : A} (p : x ＝ y) (q : f x ＝ g x) (q' : f y ＝ g y) →
```

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md [hunk 18]
```diff
@@ -120,7 +141,229 @@ module _
...
+              ( cocone-type-cocone-Pointed-Type
+                ( inclusion-point-Pointed-Type A)
+                ( inclusion-point-Pointed-Type B)
+                ( cocone-prod-wedge-Pointed-Type A B))
+              ( point-Pointed-Type unit-Pointed-Type))))))
+```
+
+### The universal property of the smash product
+
+```agda
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:328]: It would be nice with a short explanation of what the universal property is. Would you mind writing that? It should also be mentioned that it is not the categorical product and that the cartesian product is.

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md [hunk 19]
```diff
@@ -91,16 +105,23 @@ map-cogap-smash-prod-Pointed-Type c =
 ### The canonical pointed map from the product to the smash product
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:105]:
```suggestion
### The canonical pointed map from the cartesian product to the smash product
```
Seems reasonable to be specific about which product we mean precisely.

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md [hunk 20]
```diff
@@ -75,11 +103,30 @@ indexed wedge sum, `⋁∗`, is the
 
 ## Properties
 
+### The images of the points `a : A` and `b : B` are identified in `A ∨∗ B`
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:106]:
```suggestion
### The images of the base points `a : A` and `b : B` are identified in `A ∨∗ B`
```

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md [hunk 21]
```diff
@@ -120,7 +141,229 @@ module _
...
+      ( map-smash-prod-prod-Pointed-Type A B)
+      ( inv (inl-prod-wedge-Pointed-Type A B x))) ∙
+    ( eq-map-smash-prod-wedge-Pointed-Type A B
+      ( map-inl-wedge-Pointed-Type A B x) ∙
+    ( inv
+      ( eq-map-smash-prod-wedge-Pointed-Type A B
+        ( map-inr-wedge-Pointed-Type A B y))) ∙
+    ( ap
+      ( map-smash-prod-prod-Pointed-Type A B)
+      ( inr-prod-wedge-Pointed-Type A B y)))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:244]: This is either misindented or misparenthesized.

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 12 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:323]: Here, it seems like someone may end up caring about how this particular coherence proof is constructed, so you can disregard my comment about association.

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 10 above)
Comment (VojtechStep) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: Ah, thanks for the historical background, I wasn't sure if this was just overlooked or if there had already been a discussion on that topic 👍

File: src/foundation/homotopies.lagda.md (hunk 5 above)
Comment (maybemabeline) [reply src/foundation/homotopies.lagda.md:221]: Good catch! I copied these from the above example and I think both need to be rewritten using `dependent-identification` and `commuting-square-identifications` anyway.

**Comment by maybemabeline** [comment]
I think removing the brackets doesn't work in the case of pointed maps, because they might not have had the same change of precedence.

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 10 above)
Comment (maybemabeline) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: Right, I had in my mind while I was writing this that a homotopy and its argument need to lie on the same level and with that thinking it seemed wrong to have the `( x)` on the same line as the other steps in the proof. Thanks for the fix!

Comment (maybemabeline) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: Otherwise I think I agree with Vojtech that having the space in the arguments is nice. I've gotten so used to putting spaces before function applications that something looks wrong without them everywhere else.

**Comment by fredrik-bakke** [comment]
> I think removing the brackets doesn't work in the case of pointed maps, because they might not have had the same change of precedence.

Oh, that is actually an oversight! You have my permission to add the following line to `structured-types.pointed-homotopies`, right after `_~∗_`:

```agda
infix 6 _~∗_
```
That should fix the problem.

File: src/foundation/homotopies.lagda.md (hunk 5 above)
Comment (fredrik-bakke) [reply src/foundation/homotopies.lagda.md]: good point!

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 10 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: I went looking for the initial discussion, and it turns out we had it in a private chat on Discord, so sorry, but I don't have anything to reference back to. I'll wait a little and see if Egbert wants to weigh in, but I am still of the viewpoint that the added space adds nothing, and I just personally find it looks awkward. Although maybe if it was enforced consistently that feeling would change.
Also, I just realized, it shouldn't be hard to write an autoformatting hack regardless if the convention is to have a space or not. I guess if we really wanted, we could try both shoes on to see what fits best.

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:185]: Anyway, I edited the suggestion to omit the controversial change

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 12 above)
Comment (maybemabeline) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md]: > hen again, since this coherence is data and not just a property, you might end up caring about the particular construction that is made. So then it is worthwhile to consider if there is a more direct or streamlined proof that can be made.

Thanks for these comments! The association was in fact on purpose, because I couldn't get something to work with the usual formatting. Thinking about this proof more made me realize there were potentially some issues in the way it was constructed though, and I've pushed a fix now. I think everything should also follow the usual parenthesization now :)

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md]: Excellent, that's quite a bit better! Good work :)

File: src/foundation-core/equality-dependent-pair-types.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/foundation-core/equality-dependent-pair-types.lagda.md:115]: Yeah, I can't think of any particularly inspiring names for these. Perhaps just call them `eq-base-eq-pair` and `dependent-eq-family-eq-pair` for now? Your current formulations read like conditions more than constructions to me.

Comment (fredrik-bakke) [reply src/foundation-core/equality-dependent-pair-types.lagda.md:115]: If you want to bake in a Sigma that is also fine

**Comment by fredrik-bakke** [comment]
I'll be happy to merge this once the final comments have been addressed. Great work again!

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 18 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:319]: Something simple like the following should suffice:
````suggestion
### The universal property of the smash product

The _universal property of the smash product_ is that it forms the left-adjoint
to [pointed functions](structured-types.pointed-maps.md) in pointed types:

```text
  ((A ∧∗ B) →∗ C) ≃∗ (A →∗ B →∗ C).
```

**Note:** The categorical product in pointed types is the
[pointed cartesian product](structured-types.pointed-cartesian-product-types.md).

```agda
````

Please do confirm that I'm not spewing nonsense again, though.

File: src/foundation-core/equality-dependent-pair-types.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/foundation-core/equality-dependent-pair-types.lagda.md:115]: It's to suggest the dependent eq takes place in the family of the sigma type, and not in the base.

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 18 above)
Comment (maybemabeline) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:319]: That's right! I decided to expand it a little bit though :)

File: src/foundation-core/equality-dependent-pair-types.lagda.md (hunk 16 above)
Comment (maybemabeline) [reply src/foundation-core/equality-dependent-pair-types.lagda.md:115]: I'm not sure I like that too much but it's certainly better than just `dependent-eq` and also better than `dependent-eq-eq-pair`, so I agree.

**Comment by maybemabeline** [comment]
One last thing I'd like get feedback on is on the naming of functions that compute what identifications some function makes, of which I have a few. I realized I've rather awfully variously named them `eq-map-smash-prod-wedge-Pointed-Type`, ` inl-glue-smash-prod-Pointed-Type`, `glue-wedge-Pointed-Type` `inl-prod-wedge-Pointed-Type`. Would `glue-target-source-Pointed-Type` be a good general naming scheme, with the prefixes `inl-` and `inr-` to differentiate some variants?

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md [hunk 22]
```diff
@@ -106,6 +151,26 @@ module _
...
+
+  inl-prod-wedge-Pointed-Type :
+    ( x : type-Pointed-Type A) →
+    ( map-prod-wedge-Pointed-Type (map-inl-wedge-Pointed-Type A B x)) ＝
+    ( x , point-Pointed-Type B)
+  inl-prod-wedge-Pointed-Type =
+    compute-inl-cogap-Pointed-Type
+      ( inclusion-point-Pointed-Type A)
+      ( inclusion-point-Pointed-Type B)
+      ( cocone-prod-wedge-Pointed-Type)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:163]: `compute-inl-prod-wedge-Pointed-Type`*

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md [hunk 23]
```diff
@@ -106,6 +151,26 @@ module _
...
+
+  inr-prod-wedge-Pointed-Type :
+    ( y : type-Pointed-Type B) →
+    ( map-prod-wedge-Pointed-Type (map-inr-wedge-Pointed-Type A B y)) ＝
+    ( point-Pointed-Type A , y)
+  inr-prod-wedge-Pointed-Type =
+    compute-inr-cogap-Pointed-Type
+      ( inclusion-point-Pointed-Type A)
+      ( inclusion-point-Pointed-Type B)
+      ( cocone-prod-wedge-Pointed-Type)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:173]: `compute-inr-prod-wedge-Pointed-Type`

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md [hunk 24]
```diff
@@ -75,11 +103,28 @@ indexed wedge sum, `⋁∗`, is the
...
+```agda
+glue-wedge-Pointed-Type :
+  {l1 l2 : Level} (A : Pointed-Type l1) (B : Pointed-Type l2) →
+  map-inl-wedge-Pointed-Type A B (point-Pointed-Type A) ＝
+  map-inr-wedge-Pointed-Type A B (point-Pointed-Type B)
+glue-wedge-Pointed-Type A B =
+  glue-pushout
+    ( map-pointed-map (inclusion-point-Pointed-Type A))
+    ( map-pointed-map (inclusion-point-Pointed-Type B))
+    ( point-Pointed-Type unit-Pointed-Type)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:117]: This name looks very fine to me

**Comment by fredrik-bakke** [comment]
> One last thing I'd like get feedback on is on the naming of functions that compute what identifications some function makes, of which I have a few. I realized I've rather awfully variously named them `eq-map-smash-prod-wedge-Pointed-Type`, ` inl-glue-smash-prod-Pointed-Type`, `glue-wedge-Pointed-Type` and `inl-prod-wedge-Pointed-Type`. Would `glue-target-source-Pointed-Type` be a good general naming scheme, with the prefixes `inl-` and `inr-` to differentiate some variants?

Thanks for asking! I don't think we have a more specialized naming scheme for this than the general one. Some descriptors that are generally used in the context are `inl`, `inr`, `glue`, `coh`, and `compute`. As other constructions are introduced, it may be appropriate to introduce names particular to them though.
When considering what descriptor is appropriate, you have to consider what the function of the definition is. Is it to describe glue in a type, or compute glue of a particular map, or to define a coherence between other computations?

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md [hunk 25]
```diff
@@ -120,7 +141,230 @@ module _
...
+  map-smash-prod-wedge-Pointed-Type :
+    type-Pointed-Type (A ∨∗ B) → type-Pointed-Type (A ∧∗ B)
+  map-smash-prod-wedge-Pointed-Type =
+    map-pointed-map pointed-map-smash-prod-wedge-Pointed-Type
+
+  eq-map-smash-prod-wedge-Pointed-Type :
+    ( x : type-Pointed-Type (A ∨∗ B)) →
+    map-smash-prod-wedge-Pointed-Type x ＝
+    point-Pointed-Type (A ∧∗ B)
+  eq-map-smash-prod-wedge-Pointed-Type x =
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:165]: Yeah, this name should also change, but it doesn't read like a `compute` to me, more like a contraction. It is precisely showing that the image of the map contracts at the base point. But doesn't that also mean that the accompanying coherence (and all higher coherences) are automatic? Anyway, perhaps a good name is `contraction-map-smash-prod-...`?

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:165]: We already know the map is pointed. So specifying where the contraction is based at in the name seems redundant.

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md (hunk 24 above)
Comment (maybemabeline) [reply src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:117]: I agree, since it's not really a property of the maps from `A` and `B` to `A ∨ B`, but more about the wedge itself, right?

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md (hunk 22 above)
Comment (maybemabeline) [reply src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:163]: Maybe `compute-inl-identifications-prod-wedge-Pointed-Type` or `compute-inl-glue-prod-wedge-Pointed-Type`?

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:163]: I don't understand where `identifications` or `glue` enters the picture here.

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md (hunk 24 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:117]: That's the way I view it. Just like `glue` isn't really about the cone over the pushout. That's just how we define it.

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 25 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:165]: Right, you can disregard that. I'm probably just seeing things 🙃

File: src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md (hunk 22 above)
Comment (maybemabeline) [reply src/synthetic-homotopy-theory/wedges-of-pointed-types.lagda.md:163]: Right, I get what you mean now. I was kind of stuck on thinking about this as "what identifications a function makes" that I forgot that this is simply just computing what a function evaluates to. :sweat_smile:

File: src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md (hunk 25 above)
Comment (maybemabeline) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:165]: In classical algebraic topology I've heard functions that are homotopic to a constant map called "null homotopic". This terminology isn't in use in the library, right? Peraphs 'is-null-homotopic-map-smash-prod-...` would be a good name?

Comment (maybemabeline) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md:165]: I guess that would pretty strongly imply that what this function computes is something like `is-null-homotopic (map-smash-prod...)`. I think the name you suggested should be ok.

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/smash-products-of-pointed-types.lagda.md]: Your suggestion is also good!

**Comment by fredrik-bakke** [comment]
Thanks again for the fix, looking forward to your next PR! 😊
